US07507736B2
[5-(1-Isopropyl-piperidin-4-yloxy)-6-methyl-1H-indol-2-yl]-(4-methanesulfonyl-piperazin-1-yl)-methanone
The title compound was synthesized in analogy to example 1, from 5-(1-isopropyl-piperidin-4-yloxy)-6-methyl-1H-indole-2-carboxylic acid hydrochloride and 1-methanesulfonylpiperazine to afford the title compound as a light-yellow solid (49%).

reactant | 5-(1-isopropyl-piperidin-4-yloxy)-6-methyl-1H-indole-2-carboxylic acid hydrochloride | Cl.C(C)(C)N1CCC(CC1)OC=1C=C2C=C(NC2=CC1C)C(=O)O
reactant | 1-methanesulfonylpiperazine | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
product | [5-(1-Isopropyl-piperidin-4-yloxy)-6-methyl-1H-indol-2-yl]-(4-methanesulfonyl-piperazin-1-yl)-methanone | 49% | C(C)(C)N1CCC(CC1)OC=1C=C2C=C(NC2=CC1C)C(=O)N1CCN(CC1)S(=O)(=O)C | C23H34N4O4S
